2143-10-18 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2143-10-17**] 08:30 AM
 PICC LINE - START [**2143-10-17**] 08:40 AM
 MULTI LUMEN - START [**2143-10-17**] 10:00 AM
 BLOOD CULTURED - At [**2143-10-17**] 01:52 PM
   -reduced sedation by 25% on both fent and midaz this am
   -dced normal saline maint fluids as CVP was 13.
   -vascular called as R foot colder than L, they evaluated and report not
   concerned
   -transferred to our unit :)
   -got kayexelate yesterday for K of 5.6 and today K is 5.7 (pt did not
   stool). gave additional kayexelate and lactulose
   Allergies:
   Penicillins
   Unknown;
   Optiray 350 (Intraven) (Ioversol)
   Nasal stuffines
   Last dose of Antibiotics:
   Metronidazole - [**2143-10-17**] 10:36 AM
   Vancomycin - [**2143-10-17**] 02:51 PM
   Meropenem - [**2143-10-17**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-10-17**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-10-18**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-10-18**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 69 (57 - 84) bpm
   BP: 139/33(57) {76/28(48) - 178/78(99)} mmHg
   RR: 20 (3 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 117 kg
    CVP: 13 (8 - 24)mmHg
   Total In:
                                                                  1,940 mL
                                                                    588 mL
   PO:
   TF:
   IVF:
                                                                  1,640 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                    570 mL
                                                                    185 mL
   Urine:
                                                                    570 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,370 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 9.9 L/min
   Physical Examination
   gen: intubated, minimally responsive
   cv: rrr
   resp: cta anteriorly
   abd: obese, soft
   ext: cold R>L, necrotic r great toe. in boots and dressing for heel
   ulcers
   Labs / Radiology
   206 K/uL
   7.2 g/dL
   127 mg/dL
   1.4 mg/dL
   26 mEq/L
   5.7 mEq/L
   31 mg/dL
   103 mEq/L
   137 mEq/L
   23.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2143-10-18**]  03:29 AM
   WBC
   13.6
   Hct
   23.1
   Plt
   206
   Cr
   1.4
   Glucose
   127
   Other labs: PT / PTT / INR:15.2/28.9/1.3, Lactic Acid:1.5 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Microbiology: ucx growing 10-100,000 enterococcus s to ampicillin
   blood cx pending
   sputum sent this am
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 IMPAIRED SKIN INTEGRITY
   68 year old female with multiple medical problems including peripheral
   vascular disease, CAD, dCHF, and CKD admitted for a vascular procedure
   and for a nonhealing ulcer now with hypoxic respiratory failure
   developing suddenly in the context of an aspiration event.
   1) Hypoxic Respiratory Failure: Likely secondary to aspiration
   pneumonitis though progressive pneumonia cannot completely be
   excluded.  Still, acute decompensation more suggestive of chemical
   injury and patient will need supportive ventilation while she recovers
   from this.
   -Will attempt to wean FiO2, trending O2sats
   -consider switch to pressure support ventilation this am (unless cxr
   concerning for ards, difficult to determine Aa gradient s aline)
   -continue vanc/[**Last Name (un) **]
   -f/u sputum cx and blood cx
   -Ipratroprium and albuterol MDI for probable obstructive component
   -Consider bronchoscopy to remove viscous secretions and frank aspirated
   material
   -Speech and Swallow to see once extubated
   2)Peripheral Vascular Disease: Currently no acute surgical management
   is possible and the plan is to not proceed at the moment
   -Wound care, vascular following
   4) Diabetes Mellitus: Patient is insulin dependent diabetic and per
   report of family has been having frequent low sugars including this
   morning (why she was eating [**Last Name (un) 7856**])
   -Insulin sliding scale, Goal BG's of 100-180
   5) CAD: Patient has known CAD but no suggestion of acute ischemia or
   active disease
   -Continue beta blocker, no ACEi given CKD and hyperkalemia, continue
   statin
   -Unclear why patient is not on ASA (possibly related to GI bleed), will
   hold off starting ASA therapy in acute setting
   6) ?Urinary Tract Infection: On [**10-12**] the patient had urine growing
   enterococcus that was ampicillin sensitive.  10,000-100,000 CFU/ ml is
   indeterminate for infection but given leukocytosis and the fact patient
   was febrile could consider treating.
   -Meropenem should cover
   6) CKD and hyperkaleyma: Patient's Cr is back to baseline after episode
   of [**Last Name (un) **] in the context of contrast administration.  Slightly
   hyperkalemic as well.
   -EKG without any concerning changes for hyperK yesterday c K of 5.6,
   this am K is 5.7 and pt s bm after kayexelate yesterday, gave
   kayexelate and lactulose this am. will f/u
   -Avoid nephrotoxins
   -f/u UOP aim for >30cc/hr
   7) Chronic Diastolic CHF: Appears euvolemic currently
   -Continue beta blocker, avoid excess fluid administration, closely
   control BP
   8) Depression: Continue home sertraline
   9) Pain: Hold gabapentin as can be sedating and would like to avoid
   other sedatives to speed weaning, continue carbamazepine, patient
   sedated with fentanyl/midaz. sedation weaned 25% this am.
   8) PPx: Heparin SC, famotidine for PUD prophylaxis (normally on
   omeprazole but won't go down tube)
   9) FEN: NPO for now, will reevaluate in AM depending on projected
   duration of intubation
   10) Code: Full per discussion with family
   11) Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-10-17**] 08:40 AM
   Multi Lumen - [**2143-10-17**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-10-19 06:29:00 Physician Resident Progress Note
Chief Complaint: 68 yof w/ PMH of PVD, CAD, diastolic CHF and CKD
   admitted for vascular surgery management of non-healing ulcer, a/w
   hypoxic respiratory failure s/p aspiration event on [**10-17**].  Patient now
   with cold, ischemic RLEx likely requiring amputation.
   24 Hour Events:
   - Patient delerius and agitated, self extubated on [**10-18**] AM and ripped
   out right IJ in PM
   -S & S recs: 1:1 supervision for all feedings, feed only when fully
   awake and not upset, diet of pureed solids and thin liquids
   -Vascular surgery: ischemic cold right leg without dopplerable pulses,
   decision to start heparin gtt with plan to watch for demarcation of
   viability then to OR for amputation
   -Patient with poorly controlled pain and increasing agitation,
   re-intubated for management issues and improved pain control
   -Transfused 2 units of PRBC
   Allergies:
   Penicillins
   Unknown;
   Optiray 350 (Intraven) (Ioversol)
   Nasal stuffines
   Last dose of Antibiotics:
   Vancomycin - [**2143-10-17**] 02:51 PM
   Meropenem - [**2143-10-19**] 12:00 AM
   Metronidazole - [**2143-10-19**] 12:30 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Heparin Sodium - 2,050 units/hour
   Other ICU medications:
   Heparin Sodium - [**2143-10-18**] 03:21 PM
   Morphine Sulfate - [**2143-10-18**] 06:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-10-19**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 74 (68 - 103) bpm
   BP: 150/54(75) {126/33(45) - 173/73(94)} mmHg
   RR: 8 (6 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 117 kg
    CVP: 10 (6 - 18)mmHg
   Total In:
                                                                  1,032 mL
                                                                  1,560 mL
   PO:
   TF:
   IVF:
                                                                    855 mL
                                                                  1,362 mL
   Blood products:
                                                                    177 mL
                                                                    198 mL
   Total out:
                                                                    720 mL
                                                                    110 mL
   Urine:
                                                                    720 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    312 mL
                                                                  1,450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 815 (815 - 815) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 9
   PIP: 18 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   7.8 g/dL
   145 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   38 mg/dL
   105 mEq/L
   140 mEq/L
   24.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2143-10-18**]  03:29 AM
                             [**2143-10-18**]  09:11 AM
                             [**2143-10-18**]  02:57 PM
                             [**2143-10-19**]  02:43 AM
   WBC
   13.6
   14.8
   Hct
   23.1
   24.2
   23.1
   24.1
   Plt
   [**Telephone/Fax (3) 9073**]
   Cr
   1.4
   1.5
   Glucose
   127
   145
   Other labs: PT / PTT / INR:16.3/98.7/1.4, CK / CKMB /
   Troponin-T:2076//, Lactic Acid:1.5 mmol/L, LDH:396 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Microbiology:
   - blood 9/24
 pending
   - MRSA
 pending
   - urine [**10-12**] - enterococcus
   Imaging
   - CTA [**10-10**] - right common and external iliac stents w/ severe narrowing
   right external iliac, severe narrowing of  right popliteal and
   occlusion of right anterior tibial
 full report continued
   Assessment and Plan
   68 yof w/ PMH of PVD, CAD, diastolic CHF and CKD admitted for vascular
   surgery management of non-healing ulcer, a/w hypoxic respiratory
   failure s/p aspiration event on [**10-17**].  Patient now with cold, ischemic
   RLEx likely requiring amputation.
   # Peripheral Vascular Disease: patient with prior CTA showing severe
   PVD of bilateral lower extremities, now with ischemic RLEx likely
   requiring amputation
   - continue heparin gtt per vascular surgery with goal PTT 60-80
   - continue q 4-6 hour serial HCT as high risk for bleeding with prior
   h/o GI bleed
   - plan for observation until demarcation of viability line becomes
   apparent and then OR amputation
   - continue Flagyl per vascular surgery for improved anaerobic coverage
   in setting of ischemic limb
   #  Hypoxic Respiratory Failure: patient initially p/w respiratory
   failure likely [**2-25**] aspiration.  Patient self-extubated yesterday and
   remained stable in NC all day.  Patient then reintubated for management
   issues and improved pain control.
   - continue sedation with CMV assist for patient comfort
   - continue vancomycin and meropenum for high r/o aspiration pneumonia
   - obtain and f/u sputum Cx, blood Cx and daily CXR
   #  Diabetes Mellitus: patient is insulin dependent diabetic and several
   reported episodes of hypoglycemia
   - continue insulin sliding scale without basal dose with goal levels
   between 100-180
   # CAD: patient with known h/o CAD without suggestion of acute ischemia
   or active disease
   - continue home regimen of BB and statin
   - will defer ASA in setting of heparin gtt and r/o GI bleed
   # UTI: patient with + urine Cx from [**10-12**] for enterococcus with UA + for
   blood and LE
   - treat with 14 day course for complicated UTI in hospital setting
   should be covered by meropenum
   # CKD: patient Cr now back to baseline after initially presenting with
   [**Last Name (un) **] [**2-25**] contrast nephropathy a/w CTA.  Patient with Hyperkalemia
   treated with kayexalate and lactulose, now resolved.
   - continue to trend Cr and monitor UOP and consult renal concerning
   risk for rhabdo with limb ischemia
   # Chronic Diastolic CHF: appears euvolemic
   - continue BB
   # Anemia:  acute HCT drop concerning for acute blood loss, now in the
   setting of heparin gtt for ischemic limb.  Patient transfused 2 unit
   PRBC
s with only mild bump
   - continue PRBC transfusions PRN to maintain stable HCT > 21 in setting
   of possible GI bleed with continued heparin gtt requirement
   - guiac stool
   - trend q 4-6 hour HCT
   # Pain: patient with high narcotics requirements requiring intubation
   and sedation for adequate pain control
   - continue fentanyl midazolam infusion
   # PPx: heparin gtt, PPI
   # FEN: some concern for electrolyte abnormalities in setting of
   ischemic limb, likely muscle lysis and high risk of Hyperkalemia
   - monitor with q 6-12 hour lytes and CK
s (for rhabdo)
   # Code: Full per discussion with family
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-10-17**] 08:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-10-19 09:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, ischemic leg
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2143-10-18**] 08:00 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2143-10-18**] 08:25 AM
 MULTI LUMEN - STOP [**2143-10-18**] 04:00 PM
 INVASIVE VENTILATION - START [**2143-10-18**] 07:30 PM
 FEVER - 101.1
F - [**2143-10-19**] 06:15 AM
   Self-extubated, self-d/c'd IJ.
   Leg became ischemic.  Discussed with vascular by our team.  Plan for
   anticoagulation and demarcation with subsequent amputation.
   Intubated for pain control and management.
   Saline boluses for low UOP.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Optiray 350 (Intraven) (Ioversol)
   Nasal stuffines
   Last dose of Antibiotics:
   Vancomycin - [**2143-10-17**] 02:51 PM
   Meropenem - [**2143-10-19**] 12:00 AM
   Metronidazole - [**2143-10-19**] 12:30 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2143-10-18**] 03:21 PM
   Morphine Sulfate - [**2143-10-18**] 06:25 PM
   Other medications:
   lidoderm; lopressor 75 [**Hospital1 **], sevelemr, statin, PEG, colace,
   carbemazepine, vanco IV, [**Last Name (un) **], SQI, heparin gtt, Flagyl, midaz,
   fentanyl, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-10-19**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 74 (68 - 103) bpm
   BP: 143/42(67) {126/33(45) - 161/73(94)} mmHg
   RR: 15 (6 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 117 kg
   CVP: 24 (6 - 24)mmHg
   Total In:
                                                                  1,032 mL
                                                                  2,960 mL
   PO:
   TF:
   IVF:
                                                                    855 mL
                                                                  2,450 mL
   Blood products:
                                                                    177 mL
                                                                    510 mL
   Total out:
                                                                    720 mL
                                                                    170 mL
   Urine:
                                                                    720 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    312 mL
                                                                  2,790 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 815 (815 - 815) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 9
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: RLE mottled to high shin
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   196 K/uL
   145 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   38 mg/dL
   105 mEq/L
   140 mEq/L
   24.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2143-10-18**]  03:29 AM
                             [**2143-10-18**]  09:11 AM
                             [**2143-10-18**]  02:57 PM
                             [**2143-10-19**]  02:43 AM
   WBC
   13.6
   14.8
   Hct
   23.1
   24.2
   23.1
   24.1
   Plt
   [**Telephone/Fax (3) 9073**]
   Cr
   1.4
   1.5
   Glucose
   127
   145
   Other labs: PT / PTT / INR:16.3/98.7/1.4, CK / CKMB /
   Troponin-T:2076//, Lactic Acid:1.5 mmol/L, LDH:396 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR with somewhat improved opacities
   Assessment and Plan
   68 year old woman with
   - ischemic limb
   - respiratory failure
   - aspiration pneumonia
   - significant pain control needs
   - acute renal failure
   - VSE UTI
   - hx of GI bleed (and now being anticoagulated for ischemic limb).
   We will continue broad antibiotics for presumptive nosocomial
   pneumonia, VSE UTI, and potential limb infection.  We will check
   cultures including sputum.  We will watch electrolytes and CK very
   carefully since she is at high risk for rhabdomyolysis.  At present,
   risks of arterial line outweight benefits.  We will follow venous blood
   gas values for pH and pCO2.  Discussed at length with her family by our
   team.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-10-17**] 08:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments: Daily wake-up and RSBI contraindicated due to pain control
   needs.
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Met with family earlier tonight.  Long discussion about her overall
   course of care.  The fact that she has been in the hospital for most of
   the past year, and that her functional status has declined substnaillly
   over that time, suggests that her long-term prognosis is quite limited
   independent of her current events.  Overall, they seem to think that
   she would probably tell us to focus on comfort and quality of life
   rather than duration at this point, but they are not sure.  All
   questions answered.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2143-10-19**] 10:43 PM ------

2143-10-20 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -serial labs, Hct's (goal 26)
   -placed OGT
   -no one can get an ABG (poor pulses); trending VBGs
   -vascular recs: continue heparin
   -stable crits and electrolytes
   -decreased UOP, given fluids
   -Hct drop, transfused two units
   Allergies:
   Penicillins
   Unknown;
   Optiray 350 (Intraven) (Ioversol)
   Nasal stuffines
   Last dose of Antibiotics:
   Metronidazole - [**2143-10-19**] 09:28 AM
   Vancomycin - [**2143-10-19**] 10:59 AM
   Meropenem - [**2143-10-19**] 11:29 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-10-20**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 70 (61 - 72) bpm
   BP: 150/46(71) {119/30(51) - 150/50(71)} mmHg
   RR: 7 (5 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 117 kg
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  5,560 mL
                                                                  2,236 mL
   PO:
   TF:
   IVF:
                                                                  4,987 mL
                                                                  1,536 mL
   Blood products:
                                                                    573 mL
                                                                    700 mL
   Total out:
                                                                    485 mL
                                                                    150 mL
   Urine:
                                                                    485 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,075 mL
                                                                  2,086 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 19 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.29/54/46/23/-1
   Ve: 6.6 L/min
   PaO2 / FiO2: 92
   Physical Examination
   Gen: intubated, sedated
   Cv: rrr
   Resp cta anteriorly
   Abd: soft, +BS
   Ext: cold R>L , b/l heel ulcers c dressings in place. Necrotic r great
   toe
   Labs / Radiology
   198 K/uL
   9.3 g/dL
   137 mg/dL
   1.4 mg/dL
   23 mEq/L
   5.1 mEq/L
   47 mg/dL
   107 mEq/L
   140 mEq/L
   28.7 %
   17.6 K/uL
        [image002.jpg]
                             [**2143-10-18**]  03:29 AM
                             [**2143-10-18**]  09:11 AM
                             [**2143-10-18**]  02:57 PM
                             [**2143-10-19**]  02:43 AM
                             [**2143-10-19**]  11:02 AM
                             [**2143-10-19**]  02:11 PM
                             [**2143-10-19**]  05:14 PM
                             [**2143-10-19**]  11:00 PM
                             [**2143-10-20**]  06:18 AM
   WBC
   13.6
   14.8
   17.6
   Hct
   23.1
   24.2
   23.1
   24.1
   26.3
   26.0
   22.9
   28.7
   Plt
   [**Telephone/Fax (3) 9084**]93
   198
   Cr
   1.4
   1.5
   1.4
   1.6
   1.5
   1.4
   TCO2
   27
   Glucose
   127
   145
   141
   123
   137
   Other labs: PT / PTT / INR:15.9/63.6/1.4, CK / CKMB /
   Troponin-T:1398//, Lactic Acid:1.2 mmol/L, LDH:396 IU/L, Ca++:8.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 IMPAIRED HEALTH MAINTENANCE
 INEFFECTIVE COPING
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 IMPAIRED SKIN INTEGRITY
   68 yof w/ PMH of PVD, CAD, diastolic CHF and CKD admitted for vascular
   surgery management of non-healing ulcer, c/b hypoxic respiratory
   failure s/p aspiration event on [**10-17**].  Patient now with cold, ischemic
   RLEx likely requiring amputation.
   # Peripheral Vascular Disease: patient with prior CTA showing severe
   PVD of bilateral lower extremities, now with ischemic RLEx likely
   requiring amputation
   - continue heparin gtt per vascular surgery with goal PTT 60-80 (will
   check hct [**Hospital1 **] as high risk for bleeding with prior h/o GI bleed)
   - plan for observation until demarcation of viability line becomes
   apparent and then OR amputation
   - continue Flagyl per vascular surgery for improved anaerobic coverage
   in setting of ischemic limb
   -appreciate vascular recs
   -wbc increased from 7 to 17.6 since admission to micu, likely this is
   [**2-25**] ischemic limb
   -some concern for electrolyte abnormalities in setting of ischemic
   limb, likely muscle lysis and high risk of Hyperkalemia
   - monitor with q 12 hour lytes and CK
s (for rhabdo)
   #  Hypoxic Respiratory Failure: patient initially p/w respiratory
   failure likely [**2-25**] aspiration.  Patient self extubated 2 days ago and
   remained stable on NC all day.  Patient then reintubated for management
   issues and improved pain control.
   - continue sedation with and psv ventilation
   - continue vancomycin and meropenem for aspiration pneumonia
   - obtain and f/u sputum Cx, blood Cx and daily CXR
   #  Diabetes Mellitus: patient is insulin dependent diabetic and several
   reported episodes of hypoglycemia
   - continue insulin sliding scale without basal dose with goal levels
   between 100-180
   -appreciate [**Last Name (un) **] recs
   # CAD: patient with known h/o CAD without suggestion of acute ischemia
   or active disease
   - continue home regimen of BB and statin
   - will defer ASA in setting of heparin gtt and r/o GI bleed
   # UTI: patient with + urine Cx from [**10-12**] for enterococcus with UA + for
   blood and LE
   - treat with 14 day course for complicated UTI in hospital setting
   should be covered by meropenem
    # CKD: patient Cr now back to baseline after initially presenting with
   [**Last Name (un) **] [**2-25**] contrast nephropathy a/w CTA.  Patient with Hyperkalemia
   treated with kayexalate and lactulose, now resolved.
   - continue to trend Cr and monitor UOP
   -consider consult renal concerning risk for rhabdo with limb ischemia
   # Chronic Diastolic CHF: appears euvolemic
   - continue BB
   # Anemia:  acute HCT drop concerning for acute blood loss, now in the
   setting of heparin gtt for ischemic limb.  Patient transfused 2 unit
   PRBC
   - continue PRBC transfusions PRN to maintain stable HCT > 21 in setting
   of possible GI bleed with continued heparin gtt requirement
   - guiac stool
   - trend q 4-6 hour HCT
   # Pain: patient with high narcotics requirements requiring intubation
   and sedation for adequate pain control
   - continue fentanyl midazolam infusion
   # PPx: heparin gtt, PPI
   # FEN: some concern for electrolyte abnormalities in setting of
   ischemic limb, likely muscle lysis and high risk of Hyperkalemia
   - monitor with q 6-12 hour lytes and CK
s (for rhabdo)
   # Code: Full per discussion with family
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-10-17**] 08:40 AM
   Multi Lumen - [**2143-10-19**] 12:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-10-21 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -fam mtg: [**2-27**] want CMO, [**2-27**] want more care. Whole fam trusts [**Doctor Last Name **]
   of vasc [**Doctor First Name 91**]. would try to set up mtg c him and micu representative
   tomorrow. fam wants pt to be DNR
   -left ulnar artery is good spot for abg, but mostly following vbgs.
   -ett pushed down, in good position
   -pm k 5.2 from 5.1. ordered kayexelate x1 in evening, am k within
   normal limits.
   -[**Last Name (un) **] recs: continue same
   -vasc surgery: no new note
   Allergies:
   Penicillins
   Unknown;
   Optiray 350 (Intraven) (Ioversol)
   Nasal stuffines
   Last dose of Antibiotics:
   Vancomycin - [**2143-10-19**] 10:59 AM
   Meropenem - [**2143-10-21**] 12:00 AM
   Metronidazole - [**2143-10-21**] 12:40 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,550 units/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-10-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-10-21**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 60 (56 - 75) bpm
   BP: 138/45(66) {123/31(54) - 148/49(73)} mmHg
   RR: 20 (5 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117 kg (admission): 117 kg
    CVP: 13 (11 - 25)mmHg
   Total In:
                                                                  3,469 mL
                                                                    517 mL
   PO:
   TF:
   IVF:
                                                                  2,469 mL
                                                                    367 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    372 mL
                                                                    200 mL
   Urine:
                                                                    372 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,097 mL
                                                                    317 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1 (1 - 1,398) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 100%
   ABG: most recent VBG:7.38/39/90/24
   Ve: 11.1 L/min
   PaO2 / FiO2: 304
   Physical Examination
   Cardiovascular: gen: intubated, sedated
   cv: RRR
   resp: cta anteriorly
   abd: soft, +BS
   ext: R leg mottled to thigh, cold. left leg also cool.
   Labs / Radiology
   178 K/uL
   8.7 g/dL
   186 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.6 mEq/L
   54 mg/dL
   107 mEq/L
   140 mEq/L
   26.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2143-10-19**]  02:43 AM
                             [**2143-10-19**]  11:02 AM
                             [**2143-10-19**]  02:11 PM
                             [**2143-10-19**]  05:14 PM
                             [**2143-10-19**]  11:00 PM
                             [**2143-10-20**]  06:18 AM
                             [**2143-10-20**]  03:32 PM
                             [**2143-10-20**]  03:39 PM
                             [**2143-10-20**]  05:30 PM
                             [**2143-10-21**]  03:37 AM
   WBC
   14.8
   17.6
   8.6
   Hct
   24.1
   26.3
   26.0
   22.9
   28.7
   27.7
   26.8
   Plt
   196
   193
   198
   178
   Cr
   1.5
   1.4
   1.6
   1.5
   1.4
   1.6
   1.4
   TCO2
   27
   22
   Glucose
   145
   141
   123
   137
   186
   Other labs: PT / PTT / INR:18.4/84.0/1.7, CK / CKMB /
   Troponin-T:1310//, Lactic Acid:1.6 mmol/L, LDH:396 IU/L, Ca++:8.2
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: vanc level pending
   Microbiology: [**2143-10-19**] 11:02 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2143-10-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED HEALTH MAINTENANCE
 INEFFECTIVE COPING
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 IMPAIRED SKIN INTEGRITY
   68 yof w/ PMH of PVD, CAD, diastolic CHF and CKD admitted for vascular
   surgery management of non-healing ulcer, c/b hypoxic respiratory
   failure s/p aspiration event on [**10-17**].  Patient now with cold, ischemic
   RLEx likely requiring amputation.
   # Peripheral Vascular Disease: patient with prior CTA showing severe
   PVD of bilateral lower extremities, now with ischemic RLEx likely
   requiring amputation
   - continue heparin gtt per vascular surgery with goal PTT 60-80 (will
   check hct [**Hospital1 **] as high risk for bleeding with prior h/o GI bleed)
   - plan for observation until demarcation of viability line becomes
   apparent and then OR amputation
   - continue Flagyl per vascular surgery for improved anaerobic coverage
   in setting of ischemic limb
   -appreciate vascular recs
   -some concern for electrolyte abnormalities in setting of ischemic
   limb, likely muscle lysis and high risk of Hyperkalemia
   - monitor with q 12 hour lytes and CK
s (for rhabdo)
   #  Hypoxic Respiratory Failure: patient initially p/w respiratory
   failure likely [**2-25**] aspiration.  Patient self extubated 3 days ago and
   remained stable on NC all day.  Patient then reintubated for management
   issues and improved pain control. over the day yesterday, she was very
   hard to ventilate, initially bucking vent on ac, then only breathing
   4x/min on psv. Respiratory spent a long time finding perfect ac vent
   settings for her which have been working well. we have been checking
   serial vbgs, most recent vbg: 7.38/39/90/24, so perhaps
   over-ventilating a little bit.
   -could decrease RR by 1 or could just leave alone and recheck, as it
   was very hard to find vent settings that she is synchronous with
   - continue sedation with fent/midaz
   - continue vancomycin and meropenem for aspiration pneumonia (vanc
   level pending)
   - obtain and f/u sputum Cx, blood Cx and daily CXR
   #  Diabetes Mellitus: patient is insulin dependent diabetic and several
   reported episodes of hypoglycemia
   - continue insulin sliding scale without basal dose with goal levels
   between 100-180
   -appreciate [**Last Name (un) **] recs
   # CAD: patient with known h/o CAD without suggestion of acute ischemia
   or active disease
   - continue home regimen of BB and statin
   - will defer ASA in setting of heparin gtt and r/o GI bleed
   # UTI: patient with + urine Cx from [**10-12**] for enterococcus with UA + for
   blood and LE
   - treat with 14 day course for complicated UTI in hospital setting
   should be covered by meropenem
    # CKD: patient Cr now back to baseline after initially presenting with
   [**Last Name (un) **] [**2-25**] contrast nephropathy a/w CTA.  Patient with Hyperkalemia
   treated with kayexalate and lactulose, now resolved.
   - continue to trend Cr and monitor UOP, IVF boluses if UOP drops
   <30cc/hr
   -consider consult renal concerning risk for rhabdo with limb ischemia
   # Chronic Diastolic CHF: appears euvolemic
   - continue BB
   # Anemia:  acute HCT drop concerning for acute blood loss, now in the
   setting of heparin gtt for ischemic limb.  Patient transfused 2 unit
   PRBC
   - continue PRBC transfusions PRN to maintain stable HCT > 21 in setting
   of possible GI bleed with continued heparin gtt requirement
   - guiac stool
   - trend q 4-6 hour HCT
   # Pain: patient with high narcotics requirements requiring intubation
   and sedation for adequate pain control
   - continue fentanyl midazolam infusion
   # PPx: heparin gtt, PPI
   # FEN: nutrition eval for tube feed recs if not planning to extubate
   today
   -some concern for electrolyte abnormalities in setting of ischemic
   limb, likely muscle lysis and high risk of hyperkalemia
   - monitor with q 6-12 hour lytes and CK
s (for rhabdo)
   #GOC: ongoing conversations c family regarding GOC and family's sense
   of what pt's wishes would be. Recommend setting up mtg c Dr [**Last Name (STitle) **] of
   vasc [**Doctor First Name 91**] today as they know and trust him.
   # Code: Full per discussion with family
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-10-17**] 08:40 AM
   Multi Lumen - [**2143-10-19**] 12:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: